US09169254B2
A mixture of 8-[2-(4-amino-3-iodo-2,6-dimethyl-phenyl)-ethanesulfonyl]-2-(4-methyl-cyclohexyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (15 mg, 0.0256 mmol), palladium acetate (1.1 mg, 5.11 μmol), 1,1′-bis(diphenylphosphino)ferrocene (2.2 mg, 5.11 μmol), tert-butyl isocyanate (12 μL, 0.0767 mmol) and N,N-diisopropylethylamine (13 μL, 0.0767 mmol) in tetrahydrofuran (1 mL) was heated with stirring for 12 hours in a pressure bottle sealed under the conditions of 4 atm and 80° C. in a carbon monoxide atmosphere. After returning to room temperature, palladium acetate (2.2 mg, 10.22 μmol), 1,1′-bis(diphenylphosphino)ferrocene (4.4 mg, 10.22 μmol), tert-butyl isocyanate (24 μL, 0.153 mmol) and N,N-diisopropylethylamine (26 μL, 0.153 mmol) were added to the reaction solution, and the mixture was heated with stirring for 14 hours in a pressure bottle sealed under the conditions of 4 atm and 80° C. in a carbon monoxide atmosphere. After returning to room temperature, the reaction solution was concentrated under reduced pressure, and the resulting residue was purified by preparative TLC to give 3-tert-butyl-5,7-dimethyl-6-{2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-1H-quinazoline-2,4-dione as a pale yellow solid (3.3 mg, 22%).

reactant | 8-[2-(4-amino-3-iodo-2,6-dimethyl-phenyl)-ethanesulfonyl]-2-(4-methyl-cyclohexyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 0.0256 mmol, 15 mg | NC1=C(C(=C(C(=C1)C)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1)C)I | C24H35IN4O3S
reactant | tert-butyl isocyanate | 0.0767 mmol, 12 μL | C(C)(C)(C)N=C=O | C5H9NO
reactant | N,N-diisopropylethylamine | 0.0767 mmol, 13 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | carbon monoxide | [C]=O | CO
reactant | tert-butyl isocyanate | 0.153 mmol, 24 μL | C(C)(C)(C)N=C=O | C5H9NO
reactant | N,N-diisopropylethylamine | 0.153 mmol, 26 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | palladium acetate | 5.11 μmol, 1.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 5.11 μmol, 2.2 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium acetate | 10.22 μmol, 2.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 10.22 μmol, 4.4 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-tert-butyl-5,7-dimethyl-6-{2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-1H-quinazoline-2,4-dione | 3.3 mg, 22% | C(C)(C)(C)N1C(NC2=CC(=C(C(=C2C1=O)C)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1)C)=O | C30H43N5O5S
